US07718693B2
1,1-dimethylethyl 3-methyl-5-oxoprolinate (0.79 g, 3.96 mmol) was dissolved in tetrahydrofuran (8 ml) and treated with methyl iodide (0.27 ml, 4.36 mmol). The mixture was then cooled to 0° C. and treated portion-wise with sodium hydride (60% in oil, 0.170 g, 4.36 mmol). The mixture ceased bubbling after 30 minutes at 0° C. and was then allowed to warm to room temperature and stirred overnight. The mixture was quenched by addition of saturated aqueous ammonium chloride solution (10 ml) and the organic layer was separated and put aside. The aqueous layer was extracted with dichloromethane (3×20 ml) and the combined extracts were dried using a hydrophobic frit. All of the organic fractions (including that put aside earlier) were combined and evaporated to give crude 1,1-dimethylethyl 1,3-dimethyl-5-oxoprolinate (0.770 g) as a yellow gum which was used without further purification.

reactant | 1,1-dimethylethyl 3-methyl-5-oxoprolinate | 3.96 mmol, 0.79 g | CC1[C@H](NC(C1)=O)C(=O)OC(C)(C)C | C10H17NO3
reactant | methyl iodide | 4.36 mmol, 0.27 ml | CI | CH3I
reactant | sodium hydride | 4.36 mmol, 0.170 g | [H-].[Na+]
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 1,1-dimethylethyl 1,3-dimethyl-5-oxoprolinate | 0.770 g | CN1[C@H](C(=O)OC(C)(C)C)C(CC1=O)C | C11H19NO3
